US09167821B2
To a solution of [3,5-bis-(difluoromethyl)-1H-pyrazol-1-yl]acetic acid (177 mg) in dichloromethane (40 ml) are added, at 0° C., oxalyl chloride (290 mg) and one drop of N,N-dimethylformamide. The reaction mixture is stirred at room temperature for 2 hours. The solvent and the excess reagent are removed under reduced pressure. The solid residue is again dissolved in dichloromethane and, at 0° C., added dropwise to a solution of 4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride and triethylamine (5.0 eq.) in dichloromethane (25 ml). The reaction mixture is stirred at room temperature overnight. Then it is admixed with concentrated sodium hydrogencarbonate solution, and the aqueous phase is removed and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated. Purification by column chromatography gives 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (110 mg).

reactant | [3,5-bis-(difluoromethyl)-1H-pyrazol-1-yl]acetic acid | 177 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)O)F | C7H6F4N2O2
reactant | oxalyl chloride | 290 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride | [Cl-].ClC1=C(C(=CC=C1)O)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | triethylamine | 5.0 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 110 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1O)Cl)F | C24H22ClF4N5O3S
